US07888352B2
To a solution of 5-bromo-2-chloropyrimidine (600 mg) in THF (10 mL) was added isopropylamine (5.30 mL) and the reaction heated at 65° C. for 16 h. After cooling to room temperature the mixture was poured into 2 M aqueous HCl (30 mL) and washed with dichloromethane (30 mL). The aqueous layer was made basic with sodium carbonate and the product extracted into dichloromethane (3×20 mL). The organic layers were dried (MgSO4) and reduced in vacuo to give (5-bromo-pyridin-2-yl)-isopropylamine as an off-white solid.

reactant | 5-bromo-2-chloropyrimidine | 600 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | isopropylamine | 5.30 mL | C(C)(C)N | C3H9N
reactant | HCl | 2 M, 30 mL | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (5-bromo-pyridin-2-yl)-isopropylamine | BrC=1C=CC(=NC1)NC(C)C | C8H11BrN2
